US06239160B1
Step 1: Ethyl 2-amino-2-(4-trifluoromethyl-3-pyridinecarbonyloxyimino)acetate
17.3 g of carbonyidiimidazole are initially charged in 200 ml of 1,4-dioxane and, a little at a time, admixed with 20 g of 4-trifluoromethyl-3-pyridinecarboxylic acid. The mixture is stirred at room temperature for 1 h and subsequently heated to 45° C. for 2 h. After cooling to 30° C., 14.5 g of ethoxycarbonylformamide oxime are added and the mixture is stirred at 45° C. for 3 h. The precipitated solid is filtered off with suction and the filtrate is concentrated to 50 ml and, together with the solid, added to 250 ml of ice-water. The solid is filtered off with suction and dried at 50° C. under reduced pressure. This gives 28.7 g of the product as a white solid of mp. 172-174° C.

reactant | carbonyidiimidazole | 17.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-trifluoromethyl-3-pyridinecarboxylic acid | 20 g | FC(C1=C(C=NC=C1)C(=O)O)(F)F | C7H4F3NO2
reactant | ethoxycarbonylformamide oxime | 14.5 g | C(C)OC(=O)NC=NO | C4H8N2O3
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | Ethyl 2-amino-2-(4-trifluoromethyl-3-pyridinecarbonyloxyimino)acetate | NC(C(=O)OCC)=NOC(=O)C=1C=NC=CC1C(F)(F)F | C11H10F3N3O4
